US06492355B1
d) 2-Chloro-5-piperazin-1-ylmethyl-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide, hydrochloride salt
2-Chloro-5-(4-[{1,1-dimethylethyl}oxycarbonyl]-piperazin-1-yl)methyl-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide, (Example 8c, 0.080 g) was dissolved in methanol (3 ml), 4N HCl in dioxane (1 ml) was added and the mixture stirred at room temperature for 1.5 h. The solvent was removed under vacuum and the resulting solid was triturated with ether to afford the title compound as a white powder (0.062 g).

reactant | 2-Chloro-5-(4-[{1,1-dimethylethyl}oxycarbonyl]-piperazin-1-yl)methyl-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C28H40ClN3O3
reactant | HCl | 4N | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-5-piperazin-1-ylmethyl-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide, hydrochloride salt | 0.062 g | Cl.ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)CN1CCNCC1 | InChI=1S/C23H32ClN3O.ClH/c24-21-2-1-16(14-27-5-3-25-4-6-27)10-20(21)22(28)26-15-23-11-17-7-18(12-23)9-19(8-17)13-23;/h1-2,10,17-19,25H,3-9,11-15H2,(H,26,28);1H
